US07642264B2
3-{4-[4-(4-Fluoro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide was prepared from 2-(2-chloro-pyridin-4-yl)-4-(4-fluorophenyl)-6-trifluoromethyl-pyrimidine (example E.103) (0.24 g, 0.68 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.21 g, 0.82 mmol) according to the general procedure VI. Obtained as a light brown solid (0.38 g), which was subsequently deprotected.

reactant | 2-(2-chloro-pyridin-4-yl)-4-(4-fluorophenyl)-6-trifluoromethyl-pyrimidine | 0.68 mmol, 0.24 g | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C16H8ClF4N3
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 0.82 mmol, 0.21 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3-{4-[4-(4-Fluoro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C26H22F4N4O2S
